US04052395
6-(3,4-dichlorophenyl)-3(2H)pyridazinone calcium salt
To a solution of 0.1 g. of calcium chloride in 5 ml. of water was added 0.5 g. of 6-(3,4-dichlorophenyl)-3(2H)pyridazinone potassium salt and the resulting mixture was stirred at room temperature for about 30 minutes. After completion of the reaction, the so obtained solid product was recovered by filtration, washed with water and then dried to give the desired product in its hydrate form having a melting point of above 280° C.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | 6-(3,4-dichlorophenyl)-3(2H)pyridazinone potassium salt | [K].ClC=1C=C(C=CC1Cl)C=1C=CC(NN1)=O
solvent | water | O | H2O
product | 6-(3,4-dichlorophenyl)-3(2H)pyridazinone calcium salt | [Ca].ClC=1C=C(C=CC1Cl)C=1C=CC(NN1)=O | InChI=1S/C10H6Cl2N2O.Ca/c11-7-2-1-6(5-8(7)12)9-3-4-10(15)14-13-9;/h1-5H,(H,14,15);
